US04739050
3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-(4-methylthiobutyl)-3-oxo-2H-1,4-benzothiazine (compound No. 35)
To a stirred solution of 2-(4-bromobutyl)-2-[5-methoxy-2-(tetrahydropyran-2-yloxy)phenyl]-4-methyl-3-oxo-2H-1,4-benzothiazine (4.9 g, compound No. 34) in ethanol (25 ml), 20-25% aqueous sodium methyl mercaptan solution (16.6 ml) is added. Ethanol (15 ml) and tetrahydrofuran (20 ml) are added to the mixture. The mixture is stirred for 45 minutes at room temperature, and concentrated in vacuo. 2N Hydrochloric acid (50 ml), tetrahydrofuran (25 ml) and ethanol (25 ml) are added to the residue dissolved in tetrahydrofuran (50 ml), and the mixture is stirred for 45 minutes at room temperature. The reaction mixture is poured into a mixture of ethyl acetate and water. The organic layer is washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The separated crystals are collected by filtration to give 3.0 g (77.3%) of the titled compound.

reactant | 2-(4-bromobutyl)-2-[5-methoxy-2-(tetrahydropyran-2-yloxy)phenyl]-4-methyl-3-oxo-2H-1,4-benzothiazine | 4.9 g | BrCCCCC1(SC2=C(N(C1=O)C)C=CC=C2)C2=C(C=CC(=C2)OC)OC2OCCCC2 | C25H30BrNO4S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | sodium methyl mercaptan | 16.6 ml | CS.[Na]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | Ethanol | 15 ml | C(C)O | C2H6O
product | 3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-(4-methylthiobutyl)-3-oxo-2H-1,4-benzothiazine | 3.0 g, 77.3% | OC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)CCCCSC | C21H25NO3S2
